US06177419B1
6-(2-Hydroxy-5-methoxyphenyl)-6′-(2-hydroxy-5-methylphenyl)-2,2′-bipyridine was prepared from 6-bromo-6′-(2-hydroxy-5-methoxyphenyl)-2,2′-bipyridine and 2-hydroxy-5-methylphenylboronic acid in 50% yield using method F; δH [2H6]-DMSO 13.27,(1H, b), 12.64,(1H, b), 8.37,(1H, d), 8.33,(1H, d), 8.21,(2H, t), 8.14,(2H, d), 7.93,(1H, s), 7.64,(1H, s), 7.17,(1H, d), 7.00,(1H, d), 6.93,(1H, d), 6.89,(1H, d), 3.82,(3H, s), 2.34,(3H, s).

reactant | 6-bromo-6′-(2-hydroxy-5-methoxyphenyl)-2,2′-bipyridine | BrC1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=CC(=C1)OC)O | C17H13BrN2O2
reactant | 2-hydroxy-5-methylphenylboronic acid | OC1=C(C=C(C=C1)C)B(O)O | C7H9BO3
product | 6-(2-Hydroxy-5-methoxyphenyl)-6′-(2-hydroxy-5-methylphenyl)-2,2′-bipyridine | 50% yield | OC1=C(C=C(C=C1)OC)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=CC(=C1)C)O | C24H20N2O3
